US04628057
(3R)-2-[(Furfurylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as descsribed in Example 32, (3R)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (8.65 g), KOH (4.67 g), carbon disulfide (2.43 ml), 75% ethanol (120 ml) and furfuryl chloride which is prepared from furfuryl alcohol (9.24 g), thionyl chloride (12.34 g) and pyridine (8.94 g) are reacted and treated to give the title compound (2.31 g) as pale yellow powder.

reactant | (3R)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 8.65 g | C1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | KOH | 4.67 g | [OH-].[K+]
reactant | furfuryl chloride | C(C1=CC=CO1)Cl | C5H5ClO
reactant | furfuryl alcohol | 9.24 g | C(C1=CC=CO1)O | C5H6O2
reactant | thionyl chloride | 12.34 g | S(=O)(Cl)Cl | Cl2OS
reactant | carbon disulfide | 2.43 ml | C(=S)=S | CS2
solvent | pyridine | 8.94 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | (3R)-2-[(Furfurylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.31 g | C(C1=CC=CO1)SC(=S)N1CC=2NC3=CC=CC=C3C2C[C@@H]1C(=O)O | C18H16N2O3S2
